Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / Paxil / Wellbutrin
 
Attending: ___.
 
Chief Complaint:
Exposed hardware
 
Major Surgical or Invasive Procedure:
Exposed hardware removal 

 
History of Present Illness:
The is a ___ year old female who had prior surgery for a possible 
right parietal
anaplastic astrocytoma with craniotomy for resection on ___ 
by Dr. ___ in ___ followed by involved-field 
irradiation to 6,120 cGy ___ in ___, 3 cycles of 
Temodar ended ___ and a second craniotomy for tumor recurrence 
on ___ by Dr. ___ at ___ with PCV(comb chemo) ___ -
___.  

In ___ she presented with exposed hardware to the office and 
she needed admission an complex revision for a plate that had 
eroded through the skin; Plastics and I reconstructed the scalp 
at that time.

The patient presents today again with some history of pruritus 
on the top of her head and newly diagnosed exposed hardware. She 
reports that she had her husband look at the top of her head " a 
few ago" and saw that metal hardware from her prior surgery was 
present.
 
Past Medical History:
right parietal anaplastic astrocytoma, Craniotomy ___ by  
Dr. ___ in ___ irradiation to 6,120 
 
cGy ___ in ___,3 cycles of Temodar ended ___  
craniotomy on ___ by Dr. ___ at ___ ___ -  
___ wound revision and removal of the exposed craniotx 
hardware, Accutane for 2 weeks only ___ disease since 
___,  
tubal ligation,tonsillectomy, bronchitis, depression.  
seizures  

 
Social History:
___
Family History:
NC
 
Physical Exam:
AF VSS
obese
Gen: WD/WN, comfortable, NAD.
HEENT: ___ bilat EOMs: intact
Neck: Supple.
no LNN
RRR
no SOB
obese
Extrem: Warm and well-perfused, 

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect but VERY simple construct.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,  3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements

W: there is an area over the R hemiconvexity that shows a 
chronic
skin defect where the underlying harware has eroded through the
skin.
Different from previous repaired portion and represents piece of 
the implanted miniplates; No discharge; no reythemal no 
swelling;  surprisingly benign aspect.

PHYSICAL EXAM PRIOR TO DISCHARGE: 
AF VSS
obese
Gen: WD/WN, comfortable, NAD.
HEENT: ___ bilat EOMs: intact
Neck: Supple.
Incision: clean, dry, intact. No redness, swelling, erythema or 
discharge. Sutures in place. 
 
Pertinent Results:
___:
Hematology 
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:25    4.8 3.49* 11.2* 34.4* 98 31.9 32.5 16.3* 245 

BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 06:25    245 
 
Chemistry 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 06:25    ___ 142 3.4 110* 23 12 

 

 
Brief Hospital Course:
The patient presented to the ___ neurosurgical service on 
___ for treatment of exposed hardware from a previous 
surgery on her head. She went to the OR on ___, where a  
was performed removal of exposed hardware by Dr. ___. 
Postoperatively, the patient was stable. Infectious disease 
consulted the patient and recommended fluconazole 200 mg PO for 
5 days for yeast infection and Keflex ___ mg PO BID for 7 days.

For DVT prophylaxis, the patient received subcutaneous heparin 
and SCD's during her stay.

At the time of discharge, the patient was able to tolerate PO, 
was ambulatoryand able to void independently. She was able to 
verbalize agreement and understanding of the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ALPRAZolam 0.5 mg PO TID 
2. Azathioprine 100 mg PO BID 
3. DiCYCLOmine 10 mg PO Q6H:PRN abdominal pain 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q4H:PRN pain 
6. Infliximab 100 mg IV Q6 WEEKS 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Mesalamine 500 mg PO QID 
9. Omeprazole 20 mg PO DAILY 
10. Promethazine 25 mg PO Q6H:PRN n/v 
11. Topiramate (Topamax) 200 mg PO BID 
12. Venlafaxine XR 150 mg PO DAILY 
13. Zolpidem Tartrate 15 mg PO HS 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO TID 
2. Azathioprine 100 mg PO BID 
3. DiCYCLOmine 10 mg PO Q6H:PRN abdominal pain 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Mesalamine 500 mg PO QID 
6. Omeprazole 20 mg PO DAILY 
7. Topiramate (Topamax) 200 mg PO BID 
8. Venlafaxine XR 150 mg PO DAILY 
9. Zolpidem Tartrate 15 mg PO HS 
10. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q4H:PRN pain 
11. Acetaminophen 325-650 mg PO Q6H:PRN temperature; pain 
12. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 100 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
13. Fluconazole 200 mg PO Q24H Duration: 4 Days 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0
14. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN for moderate 
pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0
15. Cephalexin 500 mg PO Q12H Duration: 7 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hardware removal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Please take Fluconazole 200mg once daily for 4 days. Please 
take Keflex for 7 days for wound infection. 

Clearance to drive and return to work will be addressed at your 
post-operative office visit.
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: increasing redness, 
increased swelling, increased tenderness, or drainage.
Fever greater than or equal to 101.5 F.

 
Followup Instructions:
___